2154-05-15 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo M CAD, AAA s/p repair, ESRD on HD, AFib who presented for
   elective PVI with transeptal approach.  The patient underwent
   noncomplicated procedure.  Post procedure he was extubated in PACU but
   then reported back pain, and developed hypotension.
   24 Hour Events:
   Patient admitted to MICU.  Initially moderate-dose neo for HoTN.
   Developed progressive respiratory failure.  Repeat Lactate 10.
   Surgical consult and pt had abdominal CT with no evidence of RP bleed
   or intra-abdominal process.  Patient with several episodes VT
   overnight.  Seen by cardiology with stat bedside TTE with global
   hypokinesis.  Developed a marked metabolic acidosis and therefore was
   intubated, CVVH started.  Pressors changed to levo and vasopressin.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2154-5-15**] 06:10 AM
   Metronidazole - [**2154-5-15**] 08:08 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Amiodarone - [**2154-5-15**] 12:40 AM
   Dextrose 50% - [**2154-5-15**] 04:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2154-5-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 118 (63 - 118) bpm
   BP: 123/87(94) {76/55(59) - 125/87(94)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     78 mL
                                                                  7,871 mL
   PO:
             TF:
   IVF:
                                                                     78 mL
                                                                  7,571 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    529 mL
   Urine:
   8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                  7,342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.15/39/120/10/-14
   Ve: 17.5 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Overweight / Obese, intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   206 K/uL
   15 mg/dL
   5.4 mg/dL
   10 mEq/L
   5.2 mEq/L
   59 mg/dL
   103 mEq/L
   142 mEq/L
   42.1 %
   23.2 K/uL
        [image002.jpg]
                             [**2154-5-14**]  11:41 PM
                             [**2154-5-15**]  02:43 AM
                             [**2154-5-15**]  03:20 AM
                             [**2154-5-15**]  04:45 AM
                             [**2154-5-15**]  06:51 AM
                             [**2154-5-15**]  07:04 AM
   WBC
   15.5
   23.2
   Hct
   37.5
   40.5
   42.1
   Plt
   229
   206
   Cr
   5.4
   TropT
   3.32
   5.16
   TCO2
   11
   10
   14
   Glucose
   15
   Other labs: PT / PTT / INR:18.7/47.1/1.7, CK / CKMB /
   Troponin-T:279/48/5.16, ALT / AST:[**Telephone/Fax (1) 12617**], Alk Phos / T Bili:68/4.2,
   Differential-Neuts:89.4 %, Lymph:5.5 %, Mono:4.3 %, Eos:0.3 %, Lactic
   Acid:11.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   71 yo M CAD, AF, esrd presents with cardiogenic shock after PVI
   1. Shock: Appears cardiogenic in nature most likely demand ischemia
   vesrus acute coronary syndrome, given rapidity of onset, appears less
   consistent with sepsis.  Duration does not appear to be consistent with
   post-anaesthesia hypotension.
    - will obtain repeat TTE
    - continue to cycle ekg, cardiac enzymes, CVO2, lactate
    - will place CVL IJ to monitor CVP and CVO2
    - f/u culture data
    - will continue abx for now (vanc/cefepime/flagyl) and f/u
   blood/urine/sputum cultures
    - Levo and vasopressin for pressors
    - Patient appears volume overloaded and will cont CVVH with aim TBB -
   150/hr
   2. tachycardia/VT: episodes of both monomorphic and polymorphic VT
   likely [**3-5**] ischemia, now s/p magnesium and amiodarone
    - recieved amio 150 and now 0.5mg/hr
   3. Metabolic acidosis with elevated lactate, likely [**3-5**] cardiogenic
   shock
   - f/[**Location 134**] abdominal CT
    - surgical service following, no current indication for surgical
   procedure
   4. Respiratory failure: ? R to left shunt, pulmonary edema - P/F < 200
   but given presence of heart failure and relatively compliant lungs
   appears less consistent with ARDS
    - will continue hyperventilation to assist acid-base status
    - cont tbb negative with CVVH
    - TTE with bubble study today
   5. CAD: holding bb, cont statin, cont asa
    6.
   ICU Care
   Nutrition:
   Comments: NPO until OG tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2154-5-14**] 11:00 PM
   Dialysis Catheter - [**2154-5-14**] 11:00 PM
   Sheath - [**2154-5-14**] 11:00 PM
   20 Gauge - [**2154-5-14**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2154-05-16 04:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2154-5-15**] 10:31 AM
   Continued to have tachycardia overnight (120s
 140s) that was thought
   to be atrial tachycardia, however SBP remained stable on pressors
   - Pt got LENIs to support PE, but had no evidence of clot
   - continued CVVH
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2154-5-15**] 06:10 AM
   Cefipime - [**2154-5-15**] 06:30 PM
   Metronidazole - [**2154-5-16**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2154-5-15**] 05:00 AM
   Amiodarone - [**2154-5-15**] 09:15 AM
   Dextrose 50% - [**2154-5-15**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-5-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-16**] 04:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.6
   HR: 143 (80 - 143) bpm
   BP: 101/74(84) {101/73(84) - 122/84(95)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                 11,864 mL
                                                                  1,872 mL
   PO:
             TF:
   IVF:
                                                                 11,539 mL
                                                                  1,872 mL
   Blood products:
   Total out:
                                                                  5,728 mL
                                                                  2,446 mL
   Urine:
                                                                     98 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,136 mL
                                                                   -574 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/31/107/18/-4
   Ve: 16.3 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   13.7 g/dL
   163 mg/dL
   4.0 mg/dL
   18 mEq/L
   4.5 mEq/L
   47 mg/dL
   97 mEq/L
   138 mEq/L
   42.9 %
   24.6 K/uL
        [image002.jpg]
   ALT 3167   AST  10,425   AP 84   LDH  3275   t bili 6.0
   ABG 7.44/31/106   lactate 4.3   CK 350 MB 59  trop 5.76
                             [**2154-5-15**]  10:08 AM
                             [**2154-5-15**]  01:33 PM
                             [**2154-5-15**]  01:49 PM
                             [**2154-5-15**]  04:54 PM
                             [**2154-5-15**]  06:21 PM
                             [**2154-5-15**]  06:26 PM
                             [**2154-5-15**]  11:44 PM
                             [**2154-5-15**]  11:49 PM
                             [**2154-5-16**]  12:38 AM
                             [**2154-5-16**]  02:24 AM
   WBC
   24.6
   Hct
   42.9
   Plt
   217
   Cr
   4.5
   4.7
   4.0
   TropT
   5.80
   TCO2
   18
   17
   20
   21
   18
   19
   19
   Glucose
   175
   155
   163
   Other labs: PT / PTT / INR:23.0/38.2/2.2, CK / CKMB /
   Troponin-T:421/66/5.80, ALT / AST:2576/[**Numeric Identifier 6625**], Alk Phos / T Bili:81/5.8,
   Differential-Neuts:89.4 %, Lymph:5.5 %, Mono:4.3 %, Eos:0.3 %,
   Fibrinogen:330 mg/dL, Lactic Acid:5.9 mmol/L, LDH:4450 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN:
   Mr. [**Known lastname 980**] is a 71M with CAD s/p CABG, ESRD on HD, AAA s/p repair, AF
   who underwent elective pulmonary vein isolation on [**2154-5-14**], was
   transferred to the MICU post-procedure for hypotension, and is now
   transferred to the CCU for further management of likely cardiogenic
   shock.
   .
   # Hypotension/shock:  Unclear etiology.  Differential diagnosis
   includes cardiogenic shock possibly from MI, PE, or decompensated CHF
   in the setting of volume overload.  No evidence of hemorrhage with
   stable Hct and no tamponade on echo. Septic shock also in the
   differential, but the rapid onset and temporal relation to post op make
   this less likely.  Episodes of poly and monoporphic Vtach and
   increasing troponin lead one to cardiogenic shock due to ischemic
   event.  Tachycardia and hypoxia in setting of recent surgery indicate
   possible PE, however no clots on LENIs.
   - continue cvvh at 150
 200  cc/hr fluid removal
   - cycle enzymes for nadir (although troponin leak to be expected s/p
   PVI)
   - serial EKGs, monitor on tele
   - continue levophed/vasporessin though would consider dopamine
   - continue vanc/cefepime/flagyl for now
   - f/u blood, urine, and urine cx
   .
   # Tachycardia:  Had multiple episodes of monomorphic and polymorphic VT
   thought secondary to [**3-5**] ischemia, given magnesium and started on
   amiodarone.  Then had atrial tachycardia and is now s/p cardioversion
   with reversion into sinus for a short time before spontaneously
   reverting back to tachycardia.
   - continue amio gtt
   - f/u EP recs
   - would trend lytes, aggressive repletion
   - can start beta blocker when BP stabilizes
   - trend cardiac enzymes
   - treat pain
   .
   # Metabolic acidosis:  Secondary to profoundly elevated lactate in
   setting of hypoperfusion and now drifting downward.  Abd CT neg for
   bowel ischemia and Dr. [**Last Name (STitle) 542**] following.  Lactate improving.
   - trend lacate with ABGs q6 hr
   - support blood pressure and perfusion
   .
   # Respiratory failure: Likely primarily secondary to volume
   overload/pulmonary edema.  Oxygenation improving with diuresis with
   CVVH.  Would also consider PE with INR 1.7 on admission, not on
   coumadin b/c of GI bleeds.
   - management of heart failure as above
   - continue to wean vent settings
   - will continue hyperventilation to assist acid-base status
   .
   # Gastroparesis:  No bowel sounds.  NG lavage revealed stagnant gastric
   contents.  Medications not likely to be absorbed PO right now.
   -- NPO including medications
   .
   # elevated liver enzymes: likely shock liver from poor perfusion.
   - hold statin
   - watch for encephalopathy
   .
   # CAD s/p CABG: holding bb and asa while npo
   .
   # Afib:  Currently in afib and s/p PVI on [**2154-5-14**] with complications as
   described above.
   - continue aspirin, amio
   - Patient not anticoagulated given history of GIB
   - EP reccs
   .
   # ESRD on HD:
   - Continue phoslo and nephrocaps (when able to take PO)
   - continue cvvh at goal 150-200 ml/hr fluid removal
   .
   # Hypothyroid
   - Continue levothyroxine (when able to take PO)
   .
   #FEN: NPO pending bowel function return
   #Access: Groin line via sheath, R arterial line, R PIV, Right
   subclavian HD catheter
   #PPX PPI
   #Dispo CCU
   Code FULL
   Comm Daughter [**First Name8 (NamePattern2) 4528**] [**Last Name (NamePattern1) 9261**] [**Telephone/Fax (1) 12627**] h, [**First Name8 (NamePattern2) 38**]
   [**Known lastname 980**] [**Telephone/Fax (1) 12628**] (wife cell) [**Telephone/Fax (1) 12629**] H.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-5-14**] 11:00 PM
   Dialysis Catheter - [**2154-5-14**] 11:00 PM
   Sheath - [**2154-5-14**] 11:00 PM
   20 Gauge - [**2154-5-14**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-05-17 08:03:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   [**5-16**]
   - per Dr. [**Last Name (STitle) 4425**], in the morning given 150 mg amio, cardioverted
   --> back in SVT --> cardioverted again around 1PM --> returned to SVT,
   but rate of RVR slowed over the course of the day
   - ET tube advanced based on CXR findings
   - hepatically cleared meds held given shock liver
   - volume removed via CVVH aggressively
   - need to confirm with [**Doctor Last Name 4425**] that he does NOT want anticoagulation
   (no anticoag was the original plan for the patient)
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2154-5-16**] 12:00 AM
   Cefipime - [**2154-5-16**] 05:54 AM
   Vancomycin - [**2154-5-16**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-5-16**] 04:00 PM
   Piperacillin - [**2154-5-17**] 12:21 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-17**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 104 (77 - 149) bpm
   BP: 109/53(71) {82/50(60) - 119/79(92)} mmHg
   RR: 22 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  8,699 mL
                                                                  2,411 mL
   PO:
             TF:
   IVF:
                                                                  8,699 mL
                                                                  2,411 mL
   Blood products:
   Total out:
                                                                 14,395 mL
                                                                  3,751 mL
   Urine:
                                                                    170 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,696 mL
                                                                 -1,340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 484 (484 - 484) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/34/126/24/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General: intubated, sedated
   Neck JVP difficult to assess, no jvd
   Pulm ctab, no rales anteriorly
   Chest R sided HD catheter
   CV Regular S1 S2 II/VI systolic murmur
   Abd Soft absent bowel sounds, obese abdomen
   Groins with femoral venous sheaths in place, minimal oozing.
   Extrem cool cyanotic feet but palpable DPs. Less edema
   Neuro sedated
   Labs / Radiology
   194 K/uL
   13.1 g/dL
   157 mg/dL
   2.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   29 mg/dL
   91 mEq/L
   132 mEq/L
   40.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2154-5-16**]  05:38 AM
                             [**2154-5-16**]  05:51 AM
                             [**2154-5-16**]  11:45 AM
                             [**2154-5-16**]  11:50 AM
                             [**2154-5-16**]  05:51 PM
                             [**2154-5-16**]  06:00 PM
                             [**2154-5-17**]  12:04 AM
                             [**2154-5-17**]  12:26 AM
                             [**2154-5-17**]  04:27 AM
                             [**2154-5-17**]  06:31 AM
   WBC
   21.3
   15.3
   Hct
   41.8
   40.0
   Plt
   229
   194
   Cr
   3.4
   3.4
   3.0
   2.5
   TropT
   5.76
   3.93
   3.39
   TCO2
   22
   21
   25
   24
   Glucose
   179
   232
   213
   167
   159
   157
   Other labs: PT / PTT / INR:28.3/39.8/2.8, CK / CKMB /
   Troponin-T:116/25/3.39, ALT / AST:2524/5311, Alk Phos / T Bili:87/5.9,
   Differential-Neuts:89.4 %, Lymph:5.5 %, Mono:4.3 %, Eos:0.3 %,
   Fibrinogen:330 mg/dL, Lactic Acid:3.1 mmol/L, LDH:901 IU/L, Ca++:10.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**2154-5-16**]
   FINDINGS: As compared to the previous radiograph, the tip of the
   endotracheal
   tube now projects 9.8 cm above the carina. The tube could be advanced
   by [**2-2**]
   cm.
   Otherwise, there is no relevant change. No change in appearance of the
   lung
   parenchyma, unchanged size of the cardiac silhouette, unchanged
   appearance of
   the monitoring and support devices.
   Microbiology: [**2154-5-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2154-5-15**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2154-5-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2154-5-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT/PLAN:
   Mr. [**Known lastname 980**] is a 71M with CAD s/p CABG, ESRD on HD, AAA s/p repair, AF
   who underwent elective pulmonary vein isolation on [**2154-5-14**], was
   transferred to the MICU post-procedure for hypotension, and is now
   transferred to the CCU for further management of likely cardiogenic
   shock.
   .
   # Hypotension/shock:  Most likely cardiogenic shock. Differential
   diagnosis includes cardiogenic shock possibly from MI, PE, or
   decompensated CHF in the setting of volume overload.  No evidence of
   hemorrhage with stable Hct and no tamponade on echo. Septic shock also
   in the differential, but the rapid onset and temporal relation to post
   op make this less likely.  Episodes of poly and monoporphic Vtach and
   increasing troponin lead one to conclude cardiogenic shock due to
   ischemic event.  Tachycardia and hypoxia in setting of recent surgery
   indicate possible PE, however no clots on LENIs.
   - continue cvvh at 150
 200  cc/hr fluid removal
   - cycle enzymes for nadir
   - serial EKGs, monitor on tele
   - continue levophed/vasporessin for now titrate to maps >65
   - continue vanc/cefepime/flagyl for now
   - f/u blood, urine, and urine cx
   - obtain endotracheal sputum prior to extubation
   - Check c diff given ileus, consider KUB
   .
   # Tachycardia:  Had multiple episodes of monomorphic and polymorphic VT
   thought secondary to [**3-5**] ischemia, given magnesium and started on
   amiodarone.  Then had atrial tachycardia and is now s/p cardioversion
   with reversion into sinus for a short time before spontaneously
   reverting back to tachycardia.
   - continue amio gtt
   - f/u EP recs
   - would trend lytes, aggressive repletion
   - can start beta blocker when BP stabilizes
 hold for today
   - trend cardiac enzymes
   - treat pain
   .
   # Respiratory failure: Likely primarily secondary to volume
   overload/pulmonary edema.  Oxygenation improving with diuresis with
   CVVH.  Would also consider PE with INR 1.7 on admission, not on
   coumadin b/c of GI bleeds.
   - goal to extubate today, no need to readjust tube
   - management of heart failure as above
   - continue to wean vent settings reduce rate and reduce PEEP
   - slow down hyperventilation given improvement with acid-base status
   # Metabolic acidosis: Secondary to profoundly elevated lactate in
   setting of hypoperfusion and now drifting downward.  Abd CT neg for
   bowel ischemia and Dr. [**Last Name (STitle) 542**] following.  Lactate improving.
   - trend lacate with ABGs q6 hr
   - support blood pressure and perfusion
   .
   # Gastroparesis:  No bowel sounds.  NG lavage revealed stagnant gastric
   contents.  Medications not likely to be absorbed PO right now likely
   secondary to ileus.
   -- NPO including medications
   - Consider KUB per above
   .
   # elevated liver enzymes: likely shock liver from poor perfusion.
   - hold statin
   - watch for encephalopathy
   - monitor INR (2.8 now)
   .
   # CAD s/p CABG: holding bb and asa while npo
   .
   # Afib:  Currently in afib and s/p PVI on [**2154-5-14**] with complications as
   described above.
   - continue aspirin, amio
   - Patient not anticoagulated given history of GIB
   - EP recs
   .
   # ESRD on HD:
   - Continue phoslo and nephrocaps (when able to take PO)
   - continue cvvh at goal 150-200 ml/hr fluid removal
   .
   # Hypothyroid
   - Continue levothyroxine (when able to take PO)
   .
   #FEN: NPO pending bowel function return
   #Access: Groin line via sheath, R arterial line, R PIV, Right
   subclavian HD catheter
   #PPX PPI
   #Dispo CCU
   Code FULL
   Comm Daughter [**First Name8 (NamePattern2) 4528**] [**Last Name (NamePattern1) 9261**] [**Telephone/Fax (1) 12627**] h, [**First Name8 (NamePattern2) 38**]
   [**Known lastname 980**] [**Telephone/Fax (1) 12628**] (wife cell) [**Telephone/Fax (1) 12629**] H.
   ICU Care
   Nutrition: NPO pending improvement in ileus
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-5-14**] 11:00 PM
   Dialysis Catheter - [**2154-5-14**] 11:00 PM
   Sheath - [**2154-5-14**] 11:00 PM
   20 Gauge - [**2154-5-14**] 11:00 PM
   Will discuss with EP re removing these sheaths and replacing with
   triple lumen catheters
   Prophylaxis:
   DVT: INR supratherapeutic, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient
s family
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Reviewed above data.Examined Pt.
   Agree with note and plan to try and extubate today.
   Will need respiratory aggressive management
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**],MD
   on:[**2154-5-18**] 10:31 ------

2154-05-18 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 980**] is a 71M with CAD s/p CABG, ESRD on HD,
   renal cell carcinoma, GIB, AAA s/p repair, AF who underwent elective
   pulmonary vein isolation on [**2154-5-14**], was transferred to the MICU
   post-procedure for hypotension, and is now transferred to the CCU for
   further management of likely cardiogenic shock.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-5-17**] 04:36 PM
 PICC LINE - START [**2154-5-17**] 10:36 PM
   - discussed with renal: concerned that he has citrate toxicity, because
   total Ca is high while iCal is low. They want to switch to heparin as
   the anticoagulant. Agreed this was okay, with understanding we will
   have to watch HCT closely give prior chronic GI bleeding.
   - Extubation after level of arousal increased
   - SVT and hypotension after hypotension - responded to 2.5 mg verapamil
   - pressure actually came up so repeated
   - CXR report not final and scheduled not yet performed at 18:50
   - ID approval for vancomycin done - this is empiric Rx for hypotension
   - Called PICC team and they are going to try to come by soon, or worst
   case in a.m., then we can remove sheaths (likely with EP in a.m.)
   - Updated family
   - Repeat EKG tonight, now slower after verapamil.
   - CVVH filter clotted and replaced
   - PICC placed late evening - confirm placement then okay to pull
   sheaths - EP will likely do this.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2154-5-16**] 12:00 AM
   Cefipime - [**2154-5-16**] 05:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-5-16**] 04:00 PM
   Vancomycin - [**2154-5-17**] 09:00 AM
   Piperacillin - [**2154-5-18**] 12:40 AM
   Infusions:
   Heparin Sodium - 400 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-18**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 101 (74 - 131) bpm
   BP: 89/60(70) {74/49(59) - 100/64(76)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,292 mL
                                                                    860 mL
   PO:
             TF:
   IVF:
                                                                  5,292 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                 10,276 mL
                                                                  1,764 mL
   Urine:
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,984 mL
                                                                   -904 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (402 - 1,210) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 95%
   RSBI: 15
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: 7.37/44/91.[**Numeric Identifier 253**]/23/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General: extubated, minimally rousable, but able to follow commands
   (wiggle toes, squeeze hands)
   Neck JVP : elevated to jaw
   Pulm ctab, no rales anteriorly, but expiratory rhonchi c/w
   secretions/tracheal obstruction
   Chest R sided HD catheter
   CV heart sounds difficult to appreciate, irregular rhythm
   Abd Sof abdomen, less distended than on admission,t absent bowel
   sounds,
   Groins with femoral venous sheaths in place, minimal oozing.
   Extrem. Less edema, warm although still dusky (may be baseline
   coloring?), barely palpable DP and 1+ radial
   Neuro minimally alert, rousable to voice, following commands
   Labs / Radiology
   141 K/uL
   12.3 g/dL
   119 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.5 mEq/L
   24 mg/dL
   91 mEq/L
   130 mEq/L
   39.6 %
   13.2 K/uL
        [image002.jpg]
   ABG 7.37/44/92/26
   Lactate 2.1
   Vanc 17.3
   PTT 55.3
   INR 1.8
                             [**2154-5-17**]  12:13 PM
                             [**2154-5-17**]  02:16 PM
                             [**2154-5-17**]  03:57 PM
                             [**2154-5-17**]  04:12 PM
                             [**2154-5-17**]  05:36 PM
                             [**2154-5-17**]  06:28 PM
                             [**2154-5-17**]  09:24 PM
                             [**2154-5-17**]  11:48 PM
                             [**2154-5-18**]  04:20 AM
                             [**2154-5-18**]  04:37 AM
   WBC
   13.2
   Hct
   39.6
   Plt
   141
   Cr
   2.3
   2.3
   TCO2
   21
   26
   25
   26
   24
   24
   26
   26
   Glucose
   118
   114
   119
   Other labs: PT / PTT / INR:19.7/55.3/1.8, CK / CKMB /
   Troponin-T:116/25/3.39, ALT / AST:1790/2373, Alk Phos / T Bili:83/5.9,
   Differential-Neuts:89.4 %, Lymph:5.5 %, Mono:4.3 %, Eos:0.3 %,
   Fibrinogen:330 mg/dL, Lactic Acid:2.1 mmol/L, LDH:901 IU/L, Ca++:9.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
MICRO:
[**2154-5-17**]
sputum culture (prior to extubation):
>25 PMNs and <10 epithelial cells/100X field.
NO MICROORGANISMS SEEN.
[**2154-5-15**]:
Urine culture: no growth
[**2154-5-15**]:
Blood culture
 no growth
Chest x ray [**2154-5-17**]
   FINDINGS: Right PICC enters the superior vena cava, but distal tip is
   not
   confidently visualized due to overlap with pre-existing right internal
   jugular
   dialysis catheter. Repeat radiograph in an oblique position may be
   helpful to
   document position of this catheter if warranted clinically. Interval
   extubation. Otherwise, no relevant changes since recent study.
   Assessment and Plan
   ASSESSMENT/PLAN:
   Mr. [**Known lastname 980**] is a 71M with CAD s/p CABG, ESRD on HD, AAA s/p repair, AF
   who underwent elective pulmonary vein isolation on [**2154-5-14**], was
   transferred to the MICU post-procedure for hypotension, and is now
   transferred to the CCU for further management of likely cardiogenic
   shock.
   .
   # Hypotension/shock:  Most likely cardiogenic shock from decompensated
   CHF in the setting of volume overload.  Septic shock still in the
   differential given hypotension, but less likely.  Patient had episodes
   of poly and monoporphic Vtach and increasing troponin likely from
   cardiogenic shock due to ischemic event.
   - talk with renal for course of CVVH given length of stay fluid removal
   is 5 L negative (about what he received following his ablation
   procedure) and he should be nearing euvolemia. Will continue 150
 200
   cc/hr fluid removal for now
   - BP better when rates in the low 100s (versus rate control in 70s
   yesterday)
   - serial EKGs, monitor on tele
   - continue levophed/vasporessin for now and wean as tolerated
   - continue vanc/zosyn for now
   - f/u blood, urine, and urine cx
   .
   # Tachycardia:  Had multiple episodes of monomorphic and polymorphic VT
   thought secondary to [**3-5**] ischemia, given magnesium and started on
   amiodarone.  Then had atrial tachycardia and is now s/p cardioversion x
   2 with reversion back into atrial tachycardia vs a fib vs atrial
   flutter.
   - continue amio gtt
   - hold off on more verapamil for now, given hemodynamically stable
   - f/u EP recs
   - pm lytes, aggressive repletion
   - can start beta blocker when BP stabilizes
 hold for today
   - treat pain
   .
   # ESRD on HD:  Currently on CVVH with rate of 150 cc/hr fluid removal.
   Per renal: evidence of citrate toxicity given low ionized calcium
   despite calcium boluses.
   - as above, will discuss with renal the appropriate time to switch back
   to HD now that most of the extra fluid has been removed (although this
   will likely be after his pressors are weaned)
   - change anticoagulation to heparin secondary to citrate toxicity
   - Continue phoslo and nephrocaps (when able to take PO)
   - decrease cvvh  goal o 100 - 150 ml/hr fluid removal to aid weaning
   pressors
   - daily vanc troughs
   .
   # Altered mental status: [**Month (only) 8**] be secondary to weaning of sedation
   medications now s/p extubation, ICU delirium, hepatic encephalopathy.
   Pt received zyprexa last night with little effect.  Currently in 4
   point restraints for protection.
   - continue soft restraints until improves
   - may need to try haldol insteat of zyprexa if this happens again as
   zyprexa was not very effective
   .
   # Groin sheaths: still in place.  Plan to pull now that has PICC.  Will
   need to hold heparin/CVVH for 6 hrs post.
   .
   # Respiratory failure: Likely primarily secondary to volume
   overload/pulmonary edema.  Oxygenation improved with diuresis with CVVH
   and pt extubated yesterday.
   - management of heart failure as above
   # Metabolic acidosis: Secondary to profoundly elevated lactate in
   setting of hypoperfusion and now drifting downward.  Abd CT neg for
   bowel ischemia and Dr. [**Last Name (STitle) 542**] following.  Lactate improving.
   - trend lacate with ABGs Q day
   - support blood pressure and perfusion
   .
   # Gastroparesis:  No bowel sounds.  NG lavage revealed stagnant gastric
   contents initially.  Medications not likely to be absorbed PO right now
   likely secondary to ileus.  Abdomen soft and less distended inidating
   improvement.
   -- NPO including medications
   -- anticipate improvement over the next day as pt sedation wears off
   and mental status improves, but will consider NGT tomorrow if needed
   (defer for now given aspiration risk)
   .
   # elevated liver enzymes: likely shock liver from poor perfusion.
   - hold statin
   - watch for encephalopathy
   - monitor INR (2.8 now)
   .
   # CAD s/p CABG: holding bb and asa while npo
   .
   # Afib:  Currently in afib alternating with atrial tach or flutter, s/p
   PVI on [**2154-5-14**] with complications as described above.
   - continue aspirin, amio
   - Patient not anticoagulated given history of GIB, although on hep for
   CVVH
   - EP recs
   .
   # Hypothyroid
   - Continue levothyroxine (when able to take PO)
   .
   #FEN: NPO pending bowel function return
   #Access: Groin line via sheath (to be pulled today now that has PICC),
   R arterial line, R PIV, Right subclavian HD catheter, right PICC
   #PPX PPI
   #Dispo CCU
   Code FULL
   Comm Daughter [**First Name8 (NamePattern2) 4528**] [**Last Name (NamePattern1) 9261**] [**Telephone/Fax (1) 12627**] h, [**First Name8 (NamePattern2) 38**]
   [**Known lastname 980**] [**Telephone/Fax (1) 12628**] (wife cell) [**Telephone/Fax (1) 12629**] H.
 DELIRIUM / CONFUSION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-5-14**] 11:00 PM
   Dialysis Catheter - [**2154-5-14**] 11:00 PM
   Sheath - [**2154-5-14**] 11:00 PM
   20 Gauge - [**2154-5-14**] 11:00 PM
   PICC Line - [**2154-5-17**] 10:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   Agree with above note and reviewed data.
   Plan is to remove lines and sit Pt so as to improve resp status.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**],MD
   on:[**2154-5-18**] 12:51 ------

2154-05-19 07:28:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
 SHEATH - STOP [**2154-5-18**] 12:00 PM
 SHEATH - STOP [**2154-5-18**] 12:00 PM
   [**5-18**]
   - groin sheaths pulled (since got PICC yesterday)
   - held CVVH afterward because heparin anticoagulant... renal states we
   can readdress need for CVVH Monday since he is closer to euvolemia;
   need to minimize intake
   - follow vanc levels daily for dosing
   - changed zosyn dose to 2.25 Q 6 since will not restart CVVH today
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-5-16**] 04:00 PM
   Vancomycin - [**2154-5-18**] 09:00 AM
   Piperacillin - [**2154-5-18**] 04:30 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-5-18**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-19**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 102 (96 - 111) bpm
   BP: 83/56(62) {75/54(62) - 104/67(96)} mmHg
   RR: 25 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,096 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  3,096 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  3,352 mL
                                                                     25 mL
   Urine:
                                                                     40 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -256 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.39/37/81.[**Numeric Identifier 252**]/20/-1
   PaO2 / FiO2: 162
   Physical Examination
   General: Confused, rousable to voice, AOX1, but able to follow commands
   (wiggle toes, squeeze hands)
   Neck JVP : difficult to assess
   Pulm ctab, no rales anteriorly, but expiratory rhonchi c/w
   secretions/tracheal obstruction
   Chest R sided HD catheter
   CV heart sounds difficult to appreciate, irregular rhythm
   Abd Sof abdomen, less distended than on admission,t absent bowel
   sounds,
   Groins with femoral venous sheaths in place, minimal oozing.
   Extrem. Less edema, warm although still dusky barely palpable DP and 1+
   radial but both dopplerable
   Neuro minimally alert, rousable to voice, following commands
   Labs / Radiology
   118 K/uL
   11.6 g/dL
   113 mg/dL
   3.5 mg/dL
   20 mEq/L
   4.9 mEq/L
   41 mg/dL
   89 mEq/L
   126 mEq/L
   35.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2154-5-17**]  04:12 PM
                             [**2154-5-17**]  05:36 PM
                             [**2154-5-17**]  06:28 PM
                             [**2154-5-17**]  09:24 PM
                             [**2154-5-17**]  11:48 PM
                             [**2154-5-18**]  04:20 AM
                             [**2154-5-18**]  04:37 AM
                             [**2154-5-18**]  10:36 AM
                             [**2154-5-19**]  04:07 AM
                             [**2154-5-19**]  04:56 AM
   WBC
   13.2
   9.5
   Hct
   39.6
   35.6
   Plt
   141
   118
   Cr
   2.3
   3.5
   TCO2
   25
   26
   24
   24
   26
   26
   26
   23
   Glucose
   114
   119
   113
   Other labs: PT / PTT / INR:18.3/38.3/1.7, CK / CKMB /
   Troponin-T:116/25/3.39, ALT / AST:1107/1070, Alk Phos / T Bili:75/9.9,
   Differential-Neuts:89.4 %, Lymph:5.5 %, Mono:4.3 %, Eos:0.3 %,
   Fibrinogen:330 mg/dL, Lactic Acid:2.1 mmol/L, LDH:599 IU/L, Ca++:9.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: No new
   Microbiology: [**2154-5-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-   GRAM STAIN (Final [**2154-5-17**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
   [**2154-5-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2154-5-15**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2154-5-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2154-5-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 DELIRIUM / CONFUSION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT/PLAN:
   Mr. [**Known lastname 980**] is a 71M with CAD s/p CABG, ESRD on HD, AAA s/p repair, AF
   who underwent elective pulmonary vein isolation on [**2154-5-14**], was
   transferred to the MICU post-procedure for hypotension, and is now
   transferred to the CCU for further management of likely cardiogenic
   shock.
   .
   # Hypotension/shock:  Most likely cardiogenic shock from decompensated
   CHF in the setting of volume overload.  Septic shock still in the
   differential given hypotension, but less likely.  Patient had episodes
   of poly and monoporphic Vtach and increasing troponin likely from
   cardiogenic shock due to ischemic event. Hypovolemia is also a
   possibility given 4L negative from ultrafiltration however less likely
   given he was given 4L during the procedure. Sepsis less likely given
   white count trending down and no growth in cultures and no obvious
   source.
   - Will discuss with renal whether pt needs some fluid repletion via
   CVVH (4L neg negative length of stay)
   - BP better when rates in the low 100s (versus rate control in 70s
   yesterday)
   - serial EKGs, monitor on tele
   - continue levophed/vasporessin for now and wean as tolerated
   - continue vanc/zosyn for now
   - f/u blood, urine, and urine cx
   .
   # Tachycardia:  Had multiple episodes of monomorphic and polymorphic VT
   thought secondary to [**3-5**] ischemia, given magnesium and started on
   amiodarone.  Then had atrial tachycardia and is now s/p cardioversion x
   2 with reversion back into atrial tachycardia vs a fib vs atrial
   flutter.
   - continue amio gtt
   - hold off on more verapamil for now, given hemodynamically stable
   - f/u EP recs
   - pm lytes, aggressive repletion
   - can start beta blocker when BP stabilizes
 hold for today
   - treat pain
   .
   # ESRD on HD:  Currently on CVVH with rate of 150 cc/hr fluid removal.
   Per renal: evidence of citrate toxicity given low ionized calcium
   despite calcium boluses.
   - as above, will discuss with renal the appropriate time to switch back
   to HD now that most of the extra fluid has been removed (although this
   will likely be after his pressors are weaned)
   - change anticoagulation to heparin secondary to citrate toxicity
   - Continue phoslo and nephrocaps (when able to take PO)
   - decrease cvvh  goal o 100 - 150 ml/hr fluid removal to aid weaning
   pressors
   - daily vanc troughs
   .
   # Altered mental status: [**Month (only) 8**] be secondary to weaning of sedation
   medications now s/p extubation, ICU delirium, hepatic encephalopathy.
   Pt received zyprexa last night with little effect.  Currently in 4
   point restraints for protection.
   - continue soft restraints until improves
   - may need to try haldol insteat of zyprexa if this happens again as
   zyprexa was not very effective
   .
   # Groin sheaths: still in place.  Plan to pull now that has PICC.  Will
   need to hold heparin/CVVH for 6 hrs post.
   .
   # Hypoxia: Likely primarily secondary to volume overload/pulmonary
   edema.  Oxygenation improved with diuresis with CVVH and pt extubated
   on Friday.
   - management of heart failure as above
   # Metabolic acidosis: Secondary to profoundly elevated lactate in
   setting of hypoperfusion and now drifting downward.  Abd CT neg for
   bowel ischemia and Dr. [**Last Name (STitle) 542**] following.  Lactate improving.
   - trend lacate with ABGs Q day
   - support blood pressure and perfusion
   .
   # Gastroparesis:  No bowel sounds.  NG lavage revealed stagnant gastric
   contents initially.  Medications not likely to be absorbed PO right now
   likely secondary to ileus.  Abdomen soft and less distended inidating
   improvement.
   -- NPO including medications
   -- anticipate improvement over the next day as pt sedation wears off
   and mental status improves, but will consider NGT tomorrow if needed
   (defer for now given aspiration risk)
   .
   # elevated liver enzymes: improvement given improving INR. likely shock
   liver from poor perfusion.
   - hold statin
   - watch for encephalopathy
   - monitor INR (1.7 now)
   .
   # CAD s/p CABG: holding bb and asa while npo
   .
   # Afib:  Currently in afib alternating with atrial tach or flutter, s/p
   PVI on [**2154-5-14**] with complications as described above.
   - continue aspirin, amio
   - Patient not anticoagulated given history of GIB, although on hep for
   CVVH
   - EP recs
   .
   # Hypothyroid
   - Continue levothyroxine (when able to take PO)
   .
   #FEN: NPO pending bowel function return
   #Access: Groin line via sheath (to be pulled today now that has PICC),
   R arterial line, R PIV, Right subclavian HD catheter, right PICC
   #PPX Pneumaboots, PPI
   #Dispo CCU
   Code FULL
   Comm Daughter [**First Name8 (NamePattern2) 4528**] [**Last Name (NamePattern1) 9261**] [**Telephone/Fax (1) 12627**] h, [**First Name8 (NamePattern2) 38**]
   [**Known lastname 980**] [**Telephone/Fax (1) 12628**] (wife cell) [**Telephone/Fax (1) 12629**] H.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-5-14**] 11:00 PM
   Dialysis Catheter - [**2154-5-14**] 11:00 PM
   20 Gauge - [**2154-5-14**] 11:00 PM
   PICC Line - [**2154-5-17**] 10:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Patient was undergoing a KUB to assess his abdominal pain, during this
   film the patient became unresponsive and pulseless with electrical
   activity. CPR was immediately initiated with several rounds of
   epinephrine and bicarbonate given. The patient regained his pulse 3
   times and each time lost his pulse and went into PEA. The patient at
   one point had a wide complex tachycardia and was shocked to no affect.
   The patient was started on a dopamine and epinephrine drip in addition
   to his vasopressin and norepinephrine. The patient also received
   heparin bolus + gtt for empiric PE tx, bicarb for empiric acidosis and
   hyperkalemia tx, empiric insulin/glucagon/calcium for empiric
   hyperkalemia treatment. EKG revealed ST elevations in aVR and V1, V2
   consistent with global ischemia. Code STEMI was called and pt was to be
   taken to the cath lab until he lost his pulse again. No reversible
   cause could be identified. After the third set of CPR of over 90
   minutes of a code, the patient remained pulseless and the code was
   called as it was deemed that there was no hope for recovery.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 82**] [**Last Name (NamePattern1) **], MD
   on:[**2154-5-19**] 17:54 ------